datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18]([C:19]([C:20]([H:30])([H:31])[H:32])[c:21]1[c:22]([H:33])[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]1[H:37])([H:27])([H:28])[H:29]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[C:19]([C:18]([H:27])([H:28])[H:29])([C:20]([H:30])([H:31])[H:32])[c:21]1[c:22]([H:33])[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]1[H:37])[H:8],29.7482
[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[H:11]>>[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:6])[H:7].[H:5][H:11],26.27552
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13]1([H:20])[C:14]([H:21])([H:22])[C:15]2([H:23])[C:16]([H:24])([H:25])[C:17]([H:26])([H:27])[C:18]1([H:28])[C:19]2([H:29])[H:30]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:13]1([H:20])[C:14]([H:21])([H:22])[C:15]2([H:23])[C:16]([H:24])([H:25])[C:17]([H:26])([H:27])[C:18]1([H:28])[C:19]2([H:29])[H:30],28.4512
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[H:16]>>[C:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:10])[H:16])([H:8])[H:9],18.9535
[C:0]([H:1])([H:2])([H:3])[H:4].[O:5][O:6][H:7]>>[C:0]([H:2])([H:3])[H:4].[H:1][O:5][O:6][H:7],87.864
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[H:15]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[H:10][H:15],18.706664
[C:0](=[C:1]([C:2]([O:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[H:10]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:6])([H:4])[H:5].[O:3]([H:9])[H:10],61.9265
[C:0]1([H:6])=[C:1]([H:7])[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1([H:14])[H:15].[O:16][H:17]>>[C:0]1([H:6])=[C:1]([H:7])[C:2]([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1([H:14])[H:15].[H:8][O:16][H:17],-1.246832
[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:18]([C:19](=[C:20]([H:24])[H:25])[H:23])([H:21])[H:22]>>[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])[H:12])([H:8])([H:9])[H:10].[H:11][C:18]([C:19](=[C:20]([H:24])[H:25])[H:23])([H:21])[H:22],52.3
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:10])[H:9])([H:7])[H:8].[C:17](=[C:18]([C:19]([C:20]([H:26])([H:27])[H:28])[C:21](=[C:22]([H:30])[H:31])[H:29])[H:25])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])([H:10])[C:19]([C:18](=[C:17]([H:23])[H:24])[H:25])([C:20]([H:26])([H:27])[H:28])[C:21](=[C:22]([H:30])[H:31])[H:29])[H:9])([H:7])[H:8],59.371
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:10])([H:8])[H:9].[C:20]([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:20]([H:21])([H:22])[H:23])[H:10])([H:8])[H:9],15.1042
[C:0](=[O:1])([H:2])[H:3].[O:4][C:5](=[O:6])[H:7]>>[C:0]([O:1])([H:2])([H:3])[O:4][C:5](=[O:6])[H:7],49.7896
[C:0]([H:1])([H:2])([H:3])[H:4].[O:5][O:6]>>[C:0]([H:2])([H:3])[H:4].[H:1][O:5][O:6],216.371376
[C:0]([C:1]([O:2][C:3]([H:9])([H:10])[H:11])([H:7])[H:8])([H:4])([H:5])[H:6].[H:12]>>[C:0]([C:1]([O:2][H:12])([H:7])[H:8])([H:4])([H:5])[H:6].[C:3]([H:9])([H:10])[H:11],93.3065
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([C:13](=[C:14]([C:15]([H:21])([H:22])[H:23])[C:16]([H:24])([H:25])[H:26])[H:20])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[C:13]([C:12]([H:17])([H:18])[H:19])([C:14]([C:15]([H:21])([H:22])[H:23])[C:16]([H:24])([H:25])[H:26])[H:20])[H:7])([H:5])[H:6],72.174
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7].[O:19][H:20]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:6])[H:7].[H:8][O:19][H:20],0.0
[C:0](#[C:1][C:2](=[C:3]([C:4]#[C:5][H:10])[C:6](=[C:7]([H:12])[H:13])[H:11])[H:9])[H:8].[H:14]>>[C:0](#[C:1][C:2]([C:3]([C:4]#[C:5][H:10])[C:6](=[C:7]([H:12])[H:13])[H:11])([H:9])[H:14])[H:8],1.33888
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[C:16]([C:17]([S:18][H:24])[C:19](=[S:20])[H:25])([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:17]([C:16]([H:21])([H:22])[H:23])([S:18][H:24])[C:19](=[S:20])[H:25],124.348
[C:0]([N:1]([H:5])[H:6])([H:2])([H:3])[H:4].[O:7]>>[C:0]([N:1][H:6])([H:2])([H:3])[H:4].[H:5][O:7],85.157
